US05567581
Any buffer providing the desired pH which does not interfere the measurement of enzyme activity is suitable for use in the present invention. However, more specifically, a conventional acetate buffer can be used to provide a pH of 6.0 or less; a conventional phosphate buffer can be used to provide a pH of from 5.5 to 9.5; a carbonate-bicarbonate buffer (e.g., K2CO3 -NaHCO3) buffer can be used to provide a pH of from 8.5 to 11.0; a conventional Britton-Robinson buffer can be used to provide a pH of from 5.0 to 9.0; a conventional Veronal-sodium acetate-HCl buffer can be used to provide a pH of from 3.0 to 9.0; a TRIS-HCl buffer can be used to provide a pH of from 6.8 to 8.5; a conventional glycine-NaOH buffer can be used to provide a pH of from 8.5 to 9.5; a conventional borate buffer can be used to provide a pH of from 8.0 to 11.0; a conventional EDTA buffer can provide a pH of about 8.5; etc.

reactant | acetate | C(C)(=O)[O-]
reactant | phosphate | P(=O)([O-])([O-])[O-]
reactant | carbonate bicarbonate | C([O-])([O-])=O.C([O-])(O)=O
reactant | Veronal sodium acetate-HCl | CCC1(C(=O)NC(=O)NC1=O)CC.Cl.C(C)(=O)[O-].[Na+]
reactant | glycine NaOH | NCC(=O)O.[OH-].[Na+]
reactant | borate | B([O-])([O-])[O-]
product | EDTA | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
